US08614327B2
To a solution of 5-nitro-4-(trifluoromethyl)-2-((trimethylsilyl)ethynyl)aniline (6.0 g, 19.85 mmol) in DMF (30 mL) was added CuI (1.9 g, 9.976 mmol) under an atmosphere of nitrogen. The reaction mixture was heated at 135° C. in a sealed pressure flask overnight. The reaction mixture was then filtered and the filtrate was washed with water, dried over Na2SO4 and concentrated. The crude product was purified by silica gel column chromatography (5 to 20% EtOAc in petroleum as eluant) to obtain 6-nitro-5-(trifluoromethyl)-1H-indole (1.4 g, 31%). 1H NMR (400 MHz, CDCl3): δ 8.83 (br s, 1H), 8.15 (s, 1H), 8.11 (s, 1H), 7.58-7.57 (m, 1H), 6.80-6.79 (m, 1H); 19F NMR (282.4 MHz, CDCl3): δ −57.82; MS (ESI): m/z [M−H]− 229.

reactant | 5-nitro-4-(trifluoromethyl)-2-((trimethylsilyl)ethynyl)aniline | 19.85 mmol, 6.0 g | [N+](=O)([O-])C=1C(=CC(=C(N)C1)C#C[Si](C)(C)C)C(F)(F)F | C12H13F3N2O2Si
solvent | DMF | 30 mL | CN(C)C=O | C3H7NO
catalyst | CuI | 9.976 mmol, 1.9 g | [Cu]I
product | 6-nitro-5-(trifluoromethyl)-1H-indole | 1.4 g, 31% | [N+](=O)([O-])C1=C(C=C2C=CNC2=C1)C(F)(F)F | C9H5F3N2O2
